US05741926
2-((2-Bromoacetyl)amino)-4-chlorobenzoic Acid
A solution of 2-amino-4-chlorobenzoic acid (10 g, 0.06 mol) in anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) was cooled to 0° C. in a 300 mL 3-necked flask fitted with a magnetic stirring bar and a constant additional funnel. Bromoacetyl bromide was added dropwise over a 2 h period while maintaining the internal temperature between 0°-2° C. After the addition was completed, the ice-water bath was removed, and then the reaction mixture was stirred 20 h. The reaction mixture was cooled in an ice-bath, water (300 mL) was slowly added, and then the white crystalline product which formed was filtered. Recrystallization from EtOAc/hexane gave 9.2 g (54%) of the title compound as a white solid: mp 156.4°-158° C.; 1H NMR (DMSO-d6) δ13.99 (s, 1H, NH), 11.72 (s, 1H, COOH), 8.54 (d, 1H, J=2.0), 8.00 (d, 1H, J=8.8), 7.27 (dd, 1H, J=2.4, J=6.4), 4.28 (s, 2H); 13C NMR (DMSO-d6) δ168.60, 165.54, 141.12, 138.51, 133.88, 123.36, 119.23, 115.58, 30.54; MS (EI, m/z) 293 (M+).

reactant | 2-amino-4-chlorobenzoic acid | 0.06 mol, 10 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 2-((2-Bromoacetyl)amino)-4-chlorobenzoic Acid | 9.2 g, 54% | BrCC(=O)NC1=C(C(=O)O)C=CC(=C1)Cl | C9H7BrClNO3
